US06686505B2
A 50 ml Schlenk flask was charged with 1.075 g (6.0 mmol) of 1-(4-methylphenyl)-2-nitroethanone, 2.01 ml (14.4 mmol) of triethylamine, 1.36 ml (36.0 mmol) of formic acid, 6 ml of dimethylformamide (DMF), and 38.2 mg (0.06 mmol, S/C=100) of RuCl[(S,S)-Tsdpen](p-cymene) under an atmosphere of argon, and stirring was carried out at 30° C. for 16 hours. The reaction solution was poured into water and extracted with ether, and the organic layer was washed with saturated brine and then dried with anhydrous sodium sulfate. After removing the drying agent, the solvent was distilled off, and the oil so obtained was purified by silica gel column chromatography (eluant; n-hexane:ethyl acetate=9:1) to give 0.60 g of optically active 2-nitro-1-(4-methylphenyl)ethanol.

reactant | 1-(4-methylphenyl)-2-nitroethanone | 6.0 mmol, 1.075 g | CC1=CC=C(C=C1)C(C[N+](=O)[O-])=O | C9H9NO3
reactant | triethylamine | 14.4 mmol, 2.01 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 36.0 mmol, 1.36 ml | C(=O)O | CH2O2
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
catalyst | RuCl[(S,S)-Tsdpen](p-cymene) | 0.06 mmol, 38.2 mg | CC1=CC=C(C=C1)C(C)C.CC1=CC=C(C=C1)S(=O)(=O)[N-][C@@H](C2=CC=CC=C2)[C@H](C3=CC=CC=C3)N.[Cl-].[Ru+2]
solvent | water | O | H2O
product | 2-nitro-1-(4-methylphenyl)ethanol | [N+](=O)([O-])CC(O)C1=CC=C(C=C1)C | C9H11NO3
